US07361678B2
A mixture of 4-[2-(4-chloro-phenyl)-ethoxy]-benzaldehyde (0.08 g)and 1-BOC-4-[2-(4-amino-3-butylamino-phenoxy)-ethyl]-piperazine (0.10 g) was subjected to General Procedure K. Ethanol was removed in vacuo and the residue purified on silica gel with 1–2% MeOH/DCM. The BOC-group was removed employing General Procedure T1 to give 1-butyl-2-{4-[2-(4-chlorophenyl)ethoxy]-phenyl}-6-(2-piperazin-1-yl-ethoxy)-1H-benzimidazole (0.081 g).

reactant | 4-[2-(4-chloro-phenyl)-ethoxy]-benzaldehyde | 0.08 g | ClC1=CC=C(C=C1)CCOC1=CC=C(C=O)C=C1 | C15H13ClO2
reactant | 1-BOC-4-[2-(4-amino-3-butylamino-phenoxy)-ethyl]-piperazine | 0.10 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CCOC1=CC(=C(C=C1)N)NCCCC | C21H36N4O3
product | 1-butyl-2-{4-[2-(4-chlorophenyl)ethoxy]-phenyl}-6-(2-piperazin-1-yl-ethoxy)-1H-benzimidazole | 0.081 g | C(CCC)N1C(=NC2=C1C=C(C=C2)OCCN2CCNCC2)C2=CC=C(C=C2)OCCC2=CC=C(C=C2)Cl | C31H37ClN4O2
